*SPICE model for MSA0335
*Start Package model 
.SUBCKT MSA0335   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .061PF
LT1     11      12      .507NH
C2T1    12      0       .061PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .055PF
LT2     14      15      .098NH
C2T2    15      0       .055PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .087PF
LT3     13      DIEOUT  .721NH
C2T3    DIEOUT  0       .087PF
* Bond wire inductance
LLB     12      DIEIN   .6NH
LLE     15      DIEGND  .3NH
* Contact inductance
LL1     IN      11      .05NH
LL2     GND     14      .01NH
LL3     OUT     13      .05NH
*Parasitic capacitances
CCEB    12      15      .01PF
CCEC    15      DIEOUT  .03PF
CCBC    12      DIEOUT  .02PF
* INSERT DIE MODEL
XA03DIE DIEOUT  DIEIN   DIEGND  MSA03
.ENDS
*end Package model
*
* Start die model
.SUBCKT MSA03   DIEOUT  DIEIN   DIEGND
RF      DIEIN   DIEOUT  330   
RB      DIEIN   DIEGND  170   
RBIAS   Q1E     DIEGND  190   
RE      Q2E     DIEGND  6.86  
CF      DIEIN   DIEOUT  0.12PF
CP1     Q1E     DIEOUT  0.033PF
CP3     DIEGND  DIEOUT  0.103PF
XA03Q1  DIEOUT  DIEIN   Q1E     A03Q1
XA03Q2  DIEOUT  Q1E     Q2E     A03Q2
.ENDS
* Q1 distributed base model
.SUBCKT A03Q1   Q1C     Q1B     Q1E
RB1     Q1B     11     3.1   
RB2     11      12     8.2   
RB3     12      B1     6.2   
RE      E1      Q1E    0.49  
RC      C1      Q1C    5     
Q1      C1      B1     E1      QMSA    200
DCD1    Q1B     C1     DMOD    478
DCD2    11      C1     DMOD    624
DCD3    12      C1     DMOD    182
.ENDS
* Q2 distributed base model
.SUBCKT A03Q2   Q2C     Q2B     Q2E
RB1     Q2B     21     1.7   
RB2     21      22     4.4   
RB3     22      B2     3.3   
RE      E2      Q2E    0.26  
RC      C2      Q2C    5     
Q1      C2      B2     E2      QMSA    375
DCD1    Q2B     C2     DMOD    780
DCD2    21      C2     DMOD    1170
DCD3    22      C2     DMOD    342
.ENDS

.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QMSA    NPN (BF=90, BR=5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=1.8E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.333E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
*end die model